US06787653B2
To a solution of 4.2 g (5.19 mmol) of 1,3-bis[4-[4-(3,5-dimethoxy-4-propoxyphenyl) benzoyl]-1-piperazinyl]propane in methanol (30 mL) stirred in an ice bath, was added 3.2 mL (13 mmol) of a 4.0 mol/L ethyl acetate solution of hydrogen chloride, and the mixture was concentrated under reduced pressure. Methanol (50 mL) was added and the mixture was concentrated under reduced pressure again. A suspension of the residue in methanol-chloroform (10:1, 44 mL) was stirred at 40° C. to give a homogeneous solution. Diethyl ether (10 mL) was added to the solution and the mixture was stirred at room temperature and at 0° C. Precipitates were collected by filtration and washed successively with methanol-diethyl ether (2:3) and diethyl ether to afford 3.92 g of 1,3-bis[4-[4-(3,5-dimethoxy-4-propoxyphenyl) benzoyl)-1-piperazinyl]propane dihydrochloride as a colorless crystalline powder (yield: 86%).

reactant | 1,3-bis[4-[4-(3,5-dimethoxy-4-propoxyphenyl) benzoyl]-1-piperazinyl]propane | 5.19 mmol, 4.2 g | COC=1C=C(C=C(C1OCCC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OCCC)OC)=O)C=C1 | C47H60N4O8
reactant | ethyl acetate | 4.0 mol/L | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | Diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | methanol | 30 mL | CO | CH4O
product | 1,3-bis[4-[4-(3,5-dimethoxy-4-propoxyphenyl) benzoyl)-1-piperazinyl]propane dihydrochloride | 3.92 g, yield: 86% | Cl.Cl.COC=1C=C(C=C(C1OCCC)OC)C1=CC=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=CC=C(C=C2)C2=CC(=C(C(=C2)OC)OCCC)OC)=O)C=C1 | InChI=1S/C47H60N4O8.2ClH/c1-7-28-58-44-40(54-3)30-38(31-41(44)55-4)34-10-14-36(15-11-34)46(52)50-24-20-48(21-25-50)18-9-19-49-22-26-51(27-23-49)47(53)37-16-12-35(13-17-37)39-32-42(56-5)45(59-29-8-2)43(33-39)57-6;;/h10-17,30-33H,7-9,18-29H2,1-6H3;2*1H
